US06780855B2
A solution of 260 mg of 11β-fluoro-3-hydroxy-7α-[5-(methyl-amino)-pentyl]-estra-1,3,5(10)-trien-17-one in 3 ml of dimethylformamide is stirred with 180 mg of 9,9,10,10,10-pentafluorodecyltosylate for 1 hour at a bath temperature of 100° C. Then, it is added to semi-saturated sodium bicarbonate solution, extracted three times with methylene chloride, dried on magnesium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with dichloromethane/methanol/triethylamine. 92 mg of 11β-fluoro-3-hydroxy-7α-{5-[methyl-(9,9,10,10,10-pentafluoro-decyl)-amino]-pentyl}-estra-1,3,5(10)-trien-17-one is obtained as a foam, [α]D=+48° (c=1.0 in chloroform).

reactant | 11β-fluoro-3-hydroxy-7α-[5-(methyl-amino)-pentyl]-estra-1,3,5(10)-trien-17-one | 260 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCNC)O | C24H34FNO2
reactant | 9,9,10,10,10-pentafluorodecyltosylate | 180 mg | FC(CCCCCCCCOS(=O)(=O)C1=CC=C(C)C=C1)(C(F)(F)F)F | C17H23F5O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 11β-fluoro-3-hydroxy-7α-{5-[methyl-(9,9,10,10,10-pentafluoro-decyl)-amino]-pentyl}-estra-1,3,5(10)-trien-17-one | 92 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCN(CCCCCCCCC(C(F)(F)F)(F)F)C)O | C34H49F6NO2
